US08729102B2
B) tert-butyl [(1S)-3-{6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}-1-methylprop-2-yn-1-yl]carbamate
Under an argon atmosphere, a mixture of 2-(5-bromopyridin-2-yl)-6-(cyclopropylmethoxy)-1,3-benzoxazole (200 mg), tert-butyl [(1S)-1-methylprop-2-yn-1-yl]carbamate (196 mg), dichlorobis(triphenylphosphine)palladium(II) (20.3 mg), copper(I) iodide (11.0 mg), triethylamine (0.081 mL) and DMF (5 mL) was stirred at 80° C. for 8 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a yellow powder (150 mg).

reactant | 2-(5-bromopyridin-2-yl)-6-(cyclopropylmethoxy)-1,3-benzoxazole | 200 mg | BrC=1C=CC(=NC1)C=1OC2=C(N1)C=CC(=C2)OCC2CC2 | C16H13BrN2O2
reactant | tert-butyl [(1S)-1-methylprop-2-yn-1-yl]carbamate | 196 mg | C[C@@H](C#C)NC(OC(C)(C)C)=O | C9H15NO2
reactant | triethylamine | 0.081 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 20.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 11.0 mg | [Cu]I
solvent | Water | O | H2O
product | tert-butyl [(1S)-3-{6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}-1-methylprop-2-yn-1-yl]carbamate | 150 mg | C1(CC1)COC1=CC2=C(N=C(O2)C2=CC=C(C=N2)C#C[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C25H27N3O4
